US07276511B2
Synthesis of (methylphenylamino)-oxo-acetyl chloride
N-methylaniline (1.0 g) was dissolved in toluene (10 mL). Under cooling with ice, oxalyl chloride (4.07 mL) was added thereto, and the temperature of the mixture was lowered to room temperature, followed by stirring for 1 hour. The reaction mixture was concentrated under reduced pressure, to thereby give the title compound (1.06 g, 86.8%) as a brown oil. The compound was used without further purification.

reactant | N-methylaniline | 1.0 g | CNC1=CC=CC=C1 | C7H9N
reactant | oxalyl chloride | 4.07 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (methylphenylamino)-oxo-acetyl chloride | 1.06 g, 86.8% | CN(C1=CC=CC=C1)C(C(=O)Cl)=O | C9H8ClNO2
